Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],-4.22721055429
[H:1][O:2][C:3]([H:4])([C:5]([H:6])([H:7])[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:7],1.78829415145
[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[H:5].[O:1][O:2][C:3](=[C:4])[C:6]([H:7])([H:8])[H:9],4.35494023552
[H:1][C:2]([H:3])=[C:4]=[C:6]([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:5]>>[H:1][C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-3.03432209541
[C:8]([H:9])=[C:10]([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])/[C:8]([H:9])=[C:10](\[H:11])[C:12]([H:13])([H:14])[H:15],-1.64226222696
[H:1][C:2]([H:3])=[C:4]([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.43967167396
[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])=[C:4]>>[H:1][C:2]([H:3])[C:4]#[C:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-5.32634668411
[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1]/[C:2](=[C:3](/[H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-3.55573230936
[C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.69101816217
[C:4]([H:5])[O:6][C:7]#[C:8][H:9].[O:1]=[C:2][H:3]>>[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7]#[C:8][H:9],-4.1165893460900005
[H:1][C:2]1[O:3][C:4]([H:5])=[C:6]([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13]>>[H:1]/[C:2]([O:3][C:4]([H:5])=[C:6]([H:12])[H:13])=[C:11]\[C:7]([H:8])([H:9])[H:10],1.71696121475
[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[C:8]=[C:9]([H:10])[H:11].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])[H:7],3.29225685526
[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-3.49937448737
[H:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])\[C:13]([H:14])([H:15])[H:16].[H:1][O:2],5.96958293342
[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][C:2]=[O:3]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12],-0.215525219479
[C:1]#[C:2][C:3](=[O:4])[H:5].[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]=[C:2]([C:3](=[O:4])[H:5])[C:6]([H:7])([H:8])[O:9][H:10],-3.41523659328
[C:8]([H:9])#[C:10][C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],1.19822670904
[C:3][O:4][C:5]#[C:6][H:7].[H:1][C:2]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][H:7],-8.816657925800001
[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:12]([H:13])[H:14].[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11],4.2241584158
[C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12].[H:1][O:2]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],-6.734040953759999
[C:5]#[C:6][H:7].[O:1]=[C:2]([H:3])[C:4][O:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([C:5]#[C:6][H:7])[O:8][H:9],-6.41417331579
[C:8]([H:9])[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-8.41609338728
[H:14].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14],-1.8935394527
[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:10].[H:1][C:2]/[C:3]([C:4]([H:5])([H:6])[H:7])=[C:8](\[H:9])[O:11][C:12]([H:13])[H:14],3.77366538916
[C:8]([H:9])(=[C:10]([H:11])[H:12])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:13][H:14]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],1.22670118423
[H:1][O:2][C:3]1=[C:4]([O:5][C:6]([H:7])[H:8])[C:9]1([H:10])[H:11]>>[H:1][O:2][C:3][C:9]([C:4][O:5][C:6]([H:7])[H:8])([H:10])[H:11],2.4721427854
[H:1][C:2]([H:3])=[C:4][O:5][C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])=[C:4]=[O:5],0.336915322361
[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]#[C:4][O:6][C:7]([H:8])=[C:9]([H:10])[H:11].[H:5],2.67394565013
